US07632857B2
[4′-(Pyrrolidine-1-carbonyl)-biphenyl-4-yl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared starting with (4-Bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone and 4-methoxycarbonylphenyl boronic acid perform procedures significantly analogous to those found in Procedures BB, V′, W′ (with pyrrolidine in place of (S)-(+)-1-(2-pyrrolidinylmethyl)pyrrolidine) and Q. MS (m/e): 432.4 (M+1)

reactant | (4-Bromo-phenyl)-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-yl)methanone | BrC1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C16H21BrN2O
reactant | 4-methoxycarbonylphenyl boronic acid | COC(=O)C1=CC=C(C=C1)B(O)O | C8H9BO4
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | [4′-(Pyrrolidine-1-carbonyl)-biphenyl-4-yl]-(2-(S)-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | N1(CCCC1)C(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)N1[C@@H](CCC1)CN1CCCC1 | C27H33N3O2
